US06310079B1
(E)-2-Styryl-1-(3-trifluoromethylpyridin-2-yl)-1H-benzimidazole
To a stirred solution of (E)-2-styryl-1H-benzimidazole (0.49 g, 2.2 mmol) in dimethylacetamide (20 ml) at 0° C. under a nitrogen atmosphere was added sodium hydride (0.11 g, 2.8 mmol). After stirring at 0° C. for 20 min. and then at room temperature for 30 min., a solution of 2-chloro-3-trifluoromethylpyridine (0.60 g, 3.3 mmol) in dimethylacetamide (5 ml) was added. The resulting mixture was heated to reflux for about 3 h 20 min. After cooling, copper bronze (0.45 g, 7.1 mg-atom) was added and heating was continued for 9 h 20 min. The reaction mixture was filtered through a pad of celite and the filtrate was diluted with dichloromethane (200 ml), washed consecutively with water (3×200 ml) and brine (100 ml), dried (magnesium sulfate) and concentrated to dryness. Purification by column chromatography (silica gel, 150 g; n-hexane/ethyl acetate (2/1)) followed by recrystallization from a mixture of isopropyl ether and n-hexane yielded 37 mg (5%) of the titled compound as white solids.

reactant | (E)-2-styryl-1H-benzimidazole | 2.2 mmol, 0.49 g | C(=C\C1=CC=CC=C1)/C1=NC2=C(N1)C=CC=C2 | C15H12N2
reactant | sodium hydride | 2.8 mmol, 0.11 g | [H-].[Na+]
reactant | 2-chloro-3-trifluoromethylpyridine | 3.3 mmol, 0.60 g | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
catalyst | copper bronze | 0.45 g | [Cu] | Cu
product | (E)-2-Styryl-1-(3-trifluoromethylpyridin-2-yl)-1H-benzimidazole | 37 mg, 5% | C(=C\C1=CC=CC=C1)/C1=NC2=C(N1C1=NC=CC=C1C(F)(F)F)C=CC=C2 | C21H14F3N3
